2198-08-28 06:47:00 Physician Resident Progress Note
Chief Complaint: Pt with abdominal pain, winces and grabs over
   abdominal area. not responding to questions or commands; passing flatus
   as per nursing
   24 Hour Events:
 STOOL CULTURE - At [**2198-8-28**] 04:04 AM
 FEVER - 102.2
F - [**2198-8-27**] 08:00 PM
   spoke with daughter and [**Name (NI) 1480**] [**Last Name (NamePattern1) 177**] (named HCP) re: code status and for
   ICU consent. Both agreed to full code and consented for all procedures.
   Brother will be back in the country tomorrow and daughter states he
   will also like to be involved in decision making.
   Allergies:
   Penicillins
   Rash;
   Vicodin Es (Oral) (Hydrocodone Bit/Acetaminophen)
   Rash; Lighthead
   Last dose of Antibiotics:
   Cefipime - [**2198-8-27**] 05:00 PM
   Ceftriaxone - [**2198-8-27**] 08:15 PM
   Vancomycin - [**2198-8-27**] 09:14 PM
   Acyclovir - [**2198-8-27**] 10:30 PM
   Metronidazole - [**2198-8-28**] 01:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2198-8-27**] 08:14 PM
   Pantoprazole (Protonix) - [**2198-8-27**] 08:45 PM
   Heparin Sodium (Prophylaxis) - [**2198-8-28**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-8-28**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.3
C (99.2
   HR: 58 (58 - 104) bpm
   BP: 120/56(72) {120/56(72) - 204/122(148)} mmHg
   RR: 21 (14 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  3,427 mL
                                                                  1,364 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  2,827 mL
                                                                  1,094 mL
   Blood products:
   Total out:
                                                                  3,420 mL
                                                                    332 mL
   Urine:
                                                                  3,020 mL
                                                                    332 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      7 mL
                                                                  1,032 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   GENERAL: elderly female, prominent tremor greatest in RUE.
   HEENT: Will not open eyes and strongly resists any attempt to force
   eyes open.  Will not open mouth. Facial twitching below L eye.  Dry
   MM.  Asymmetric bite though otherwise face symmetric.
   CARDIAC: Irregularly irregular. II/VI SM in right upper sternal
   border.
   LUNGS: CTAB anterolaterally
   ABDOMEN: + BS, soft, mildly distended, grimaces to palpation of abdomen
   diffusely, though no guarding. No HSM.
   EXTREMITIES: No edema, warm.
   NEURO: Parkinsonism tremors noted, most profound in RUE.  Lethargic but
   somewhat responsive to voice.  Withdraws to pain in all extremities.
   Significant bilateral UE rigidly, much less so in lower extremities.
   Labs / Radiology
   270 K/uL
   11.8 g/dL
   177 mg/dL
   0.8 mg/dL
   23 mEq/L
   2.7 mEq/L
   9 mg/dL
   111 mEq/L
   144 mEq/L
   37.3 %
   13.1 K/uL
        [image002.jpg]
                             [**2198-8-28**]  12:49 AM
   WBC
   13.1
   Hct
   37.3
   Plt
   270
   Cr
   0.8
   Glucose
   177
   Other labs: Lactic Acid:2.1 mmol/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL,
   PO4:1.7 mg/dL
   Fluid analysis / Other labs: tsh=0.48
   T4=7.8
   WBC on [**8-26**]=20
   Imaging: cxr
   PORTABLE UPRIGHT CHEST: An endogastric tube course was below the
   diaphragm,
   terminating in the distal stomach. Otherwise, there has been little
   interval
   change. The lungs remain clear and there is no pleural effusion or
   pneumothorax. The cardiomediastinal silhouette is unchanged.
   Microbiology: [**2198-8-28**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B
   TEST-PENDING INPATIENT
   [**2198-8-27**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2198-8-27**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2198-8-27**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2198-8-26**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2198-8-26**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2198-8-26**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2198-8-25**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2198-8-25**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2198-8-24**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   [**2198-8-24**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2198-8-23**]  URINE URINE CULTURE-FINAL INPATIENT
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERTENSION, BENIGN
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ATRIAL FIBRILLATION (AFIB)
   84F with Parkinson's, bipolar disorder, breast cancer, presenting with
   hypertension, chest pain, and UTI; now with delerium, tachycardia, and
   fever to 104.
   .
   # Fever/leukocytosis.  Fever to 104 (initially afebrile upon
   presentation) with worsening leukocytosis to 20K yesterday, but now
   down to 13K.  On admission suspected to be urinary source, on cipro
   since admission, with more recent addition of metronidazole and
   vancomycin.  Primary team had concerns re: intraabdominal source given
   ?tenderness on exam.  Also with altered mental status as below.
   Consider noninfectious causes strongly as well, given overall
   hemodynamic stability with such significant fevers
 med effect
   (?cipro), NMS given withdrawal of antiparkinsonian meds and
   tachycardia/hypertension, though seems quite unlikely with very low CK.
   Also could consider serotonin syndrome
   -will try to do LP to be done today
   - CXR, blood cultures, repeat urine culture, C.diff.
   - lactate slightly elevated
   -patient also extremely uncomfortable and winces with abdominal exam;
   Had hyperinternse area in pelvic area on MRI in [**6-21**]
   - Continue metronidazole and vanco for now, add GNR coverage of
   ceftriaxone for coverage of [**Hospital 8265**] hosp acquired orgs (given lack of
   response to cipro) and for CNS coverage.  Stop cipro.
   - Cover for bacterial/viral meningitis with ceftriaxone, vanco,
   acyclovir.
   -will hold lexapro and TCA for now
   .
   # Tachycardia.  Intermittently in Afib vs. flutter vs. MAT (difficult
   to appreciate baseline given tremor).  Likely reactive to hypovolemia,
   fever, ?sepsis.
   - Continue to volume replete/maintain euvolemia.
   - Fever control.
   - Infectious workup and management as above.
   - TFT's wnl
   - Continue home dose of propanolol to prevent withdrawal tachycardia.
   .
   # Delerium.  Multiple possible causes including electrolyte abnls
   (hyperNa in particular), infection (CNS infection or effects of UTI or
   other infection), med effect or med withdrawal (has been difficult to
   maintain PO access).
   - aggressively correct electrolyte abnormalities
   - LP as above.
   - Neuro following.
   - NGT for meds.
   .
   # Hypernatremia.  Likely due to insensible losses from high fever and
   inability to take in free water.  Also consider DI contributing given
   long term Li use and high UOP; [**Male First Name (un) **] excess with low Na/high K.
   - Replete with NS; maintenance with 1/2 NS b/c hyperglycemic yesterday
   with D51/2NS. Free water via NGT once placed.
   - [**Hospital1 **] to TID lytes.
   .
   # Hypertension.  Some artifactal given UE rigidity.  Has been very
   labile overall - ranging from 100-200s systolic.  Some concern for med
   effect (sinemet)
   - continue current dose of lisinopril and propanolol if can establish
   PO access; otherwise can start IV enalapril or metoprolol.
   - Thigh pressures with doppler if getting high readings.
   .
   # Hypercalcemia.  Likely volume depletion.  Normal albumin.
   - Continue to monitor.
   .
   # Parkinsons.
   - Sinemet once PO access established.
   - f/u neuro recs.
   .
   # Bipolar disorder.
   - Holding Lithium per neuro recs.
   .
   # Gastrocult positive. NGT suctioning earlier during admission.
   - Continue [**Hospital1 **] IV PPI.
   - Monitor Hct.  Hemoconcentrated yesterday (37-->40-->45-->37). Typed
   and screened.
   .
   # FEN: NGT.  NPO for now as unsafe for swallowing.
   # PPX: PPI, heparin SQ, bowel regimen.
   # ACCESS: PIV  x2 (20 and 22)
   # CODE: FULL CODE
   # DISPO:   ICU for now
   # Communication: [**Doctor First Name 1388**] (home aide) [**Telephone/Fax (1) 8267**] though is not HCP
   reports current HCP is [**Name (NI) 1480**] [**Name (NI) 177**] (a psychologist) office [**Telephone/Fax (1) 8268**]
   and cell is [**Telephone/Fax (1) 8269**].  Patient also has brother [**Name (NI) **] [**Name (NI) 8270**] home
   [**Telephone/Fax (1) 8271**] and cell [**Telephone/Fax (1) 8272**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2198-8-27**] 12:37 PM
   20 Gauge - [**2198-8-27**] 12:37 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2198-08-29 06:11:00 Physician Resident Progress Note
Chief Complaint:
   84F with Parkinsons disease, breast cancer, spinal stenosis, and
   multiple UTIs initially referred from [**Hospital1 112**] [**Hospital1 69**] on [**2198-8-23**] for
   hypertension, up to 250 systolic.  She was admitted to medicine for UTI
   and rule out, but later transferred to  MICU for deteriorating mental
   status associated with high fevers and rigidity and afib with RVR..
   24 Hour Events:
   - Neuro recs:  LP for evaluation of CNS infection, continue Sinemet,
   avoid all neuroleptics and antipsychotics that could interfere with
   home regimine, continue infectious workup, does not feel NMS or SS as
   likely as Parkinson
   - Lumbar puncture performed: 8 W / 2 R / 41 L. / 59 MAC / 51 TP / 113
   GL
 HSV pending, G Stain shows 1+ PMN
s with nor organisms
   - EEG performed and results pending
   - Na elevated to 150, given 500 cc of D5W with decrease to 146, will
   continue with large water flushes with Tube feeds
   - Nutrition placed recommendations for tube feeds
   - Vancomycin was discontinued
   - Brother was called who states he is formal HCP and will be faxing
   documentation to MICU
   - SBP
s in 200
s-220
s this AM, gave propanolol and hydralazine with
   little effect, will attempt to take BP from lower extremity given
   rigidity of upper extremity and potentially falsely elevated BP
   Allergies:
   Penicillins
   Rash;
   Vicodin Es (Oral) (Hydrocodone Bit/Acetaminophen)
   Rash; Lighthead
   Last dose of Antibiotics:
   Ceftriaxone - [**2198-8-27**] 08:15 PM
   Vancomycin - [**2198-8-27**] 09:14 PM
   Cefipime - [**2198-8-28**] 08:34 PM
   Acyclovir - [**2198-8-28**] 10:33 PM
   Metronidazole - [**2198-8-29**] 12:46 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2198-8-28**] 01:30 PM
   Heparin Sodium (Prophylaxis) - [**2198-8-28**] 04:39 PM
   Pantoprazole (Protonix) - [**2198-8-28**] 08:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-8-29**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.1
   HR: 79 (59 - 94) bpm
   BP: 128/59(76) {128/55(74) - 196/119(128)} mmHg
   RR: 26 (11 - 31) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 77.5 kg (admission): 77.3 kg
   Height: 65 Inch
             Total In:
                                                                  4,053 mL
                                                                    565 mL
   PO:
             TF:
                                                                    103 mL
                                                                    154 mL
   IVF:
                                                                  2,710 mL
                                                                    162 mL
   Blood products:
   Total out:
                                                                  2,312 mL
                                                                    180 mL
   Urine:
                                                                  2,312 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,741 mL
                                                                    385 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General: patient much more alert and responsive than yesterday, able to
   open eyes and grasp with command
   HEENT: still with facial grimace, eyes now opening to command, no JVP
   Heart: irregularly irregular, tachycardic, no MRG
   Lungs: CTAB, no WRR
   Abdomen: soft, NTND, ABS
   Ext: WWP, no CCE, DP 2+
   Labs / Radiology
   270 K/uL
   11.8 g/dL
   160 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   9 mg/dL
   115 mEq/L
   146 mEq/L
   37.3 %
   13.1 K/uL
        [image002.jpg]
                             [**2198-8-28**]  12:49 AM
                             [**2198-8-28**]  11:59 AM
   WBC
   13.1
   Hct
   37.3
   Plt
   270
   Cr
   0.8
   0.7
   Glucose
   177
   160
   Other labs: Lactic Acid:2.1 mmol/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL,
   PO4:1.7 mg/dL
   Microbiology
   - C. Diff
 negative
   - Blood Cx
 pending
   - Urine Cx
 negative
   - CSF Cx
 pending
   Imaging
   - CT Abdomen/Pelvis [**8-28**]
 no acute abnormalities
   - EEG
 pending
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERTENSION, BENIGN
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ATRIAL FIBRILLATION (AFIB)
   84F with Parkinson's, bipolar disorder, breast cancer, presenting with
   hypertension, chest pain, and UTI; now with delerium, tachycardia, and
   fever to 104.
   # Fever/leukocytosis.  Fever to 104 with worsening leukocytosis to 20K
   yesterday, but now down to 13K.  On admission suspected to be urinary
   source, on cipro since admission, with more recent addition of
   metronidazole.  Vancomycin was discontinued yesterday.  Primary team
   had concerns re: intra-abdominal source given tenderness on exam
   however CT abdomen did not reveal any source.  Patient continues to
   have altered mental status as below.  Consider noninfectious causes
   strongly as well, given overall hemodynamic stability with such
   significant fevers
 medication induced.
   - LP performed which shows lymphocytic predominance with chemistries
   suggestive of possible viral etiology
 will f/u HSV and cultures
   - continue to follow fever curve, WBC count, CXR, blood Cx, CSF Cx
   - continue ceftriaxone and acyclovir pending CSF Cx and HSV Cx of CSF
   fluid results concerning for some CNS process, consider stopping
   metronidazole given absence of intrabdominal pathology
   - -will continue to hold lexapro and TCA given possibility of SS vs.
   NLM
   # Tachycardia.  Intermittently in Afib vs. flutter vs. MAT (difficult
   to appreciate baseline given tremor).  Likely reactive to hypovolemia,
   fever, or sepsis.  TFT
s were checked and were WNL
s.  This may
   represent hypovolemia in setting of high fevers and volume loss.
   - Continue to volume replete/maintain euvolemia.
   - Fever control.
   - Infectious workup and management as above.
   - Continue home dose of propanolol to prevent withdrawal tachycardia.
   # Delerium.  Multiple possible causes including electrolyte abnls
   (hyperNa in particular), infection (CNS infection or effects of UTI or
   other infection), med effect or med withdrawal (has been difficult to
   maintain PO access).
   - LP suggestive of some CNS process
 will continue to treat with
   Ceftriaxone and Acyclovir pending final LP results
   - continue to monitor and replete electrolytes PRN
   - will f/u EEG today
   # Hypernatremia.  Likely due to insensible losses from high fever and
   inability to take in free water.  Also consider DI contributing given
   long term Li use and high UOP; [**Male First Name (un) **] excess with low Na/high K.
   - Na responsive to D5W and free water flushes through tube feeds, will
   continue to monitor
   # Hypertension.  Some artifactal given UE rigidity.  Has been very
   labile overall - ranging from 100-200s systolic.  Some concern for med
   effect (sinemet)
   - continue current dose of lisinopril and propanolol if can establish
   PO access; otherwise can start IV enalapril or metoprolol.
   - consider adding standing dose of additional oral or increasing dose
   of standing oral
   - Thigh pressures with doppler if getting high readings.
   # Hypercalcemia.  Likely volume depletion.  Normal albumin.
   - Continue to monitor.
   # Parkinsons.  Sinemet once PO access established.
   - continue to f/u neuro recs.
   # Bipolar disorder.
   - Holding Lithium per neuro recs.
   .
   # Gastrocult positive. NGT suctioning earlier during admission.
   - Continue [**Hospital1 **] IV PPI.
   - Monitor Hct.  Hemoconcentrated yesterday (37-->40-->45-->37). Typed
   and screened.
   .
   # FEN: NGT.  NPO for now as unsafe for swallowing.
   # PPX: PPI, heparin SQ, bowel regimen.
   # ACCESS: PIV  x2 (20 and 22)
   # CODE: FULL CODE
   # DISPO:   ICU for now
   # Communication: [**Doctor First Name 1388**] (home aide) [**Telephone/Fax (1) 8267**] though is not HCP
   reports current HCP is [**Name (NI) 1480**] [**Name (NI) 177**] (a psychologist) office [**Telephone/Fax (1) 8268**]
   and cell is [**Telephone/Fax (1) 8269**].  Patient also has brother [**Name (NI) **] [**Name (NI) 8270**] home
   [**Telephone/Fax (1) 8271**] and cell [**Telephone/Fax (1) 8272**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2198-8-27**] 12:37 PM
   20 Gauge - [**2198-8-27**] 12:37 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2198-8-28**] 04:37 PM 25 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2198-8-27**] 12:37 PM
   20 Gauge - [**2198-8-27**] 12:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: